US04220647
A solution of 3,4-dihydroxyphenethylamine hydrochloride (2.17 g) and N-benzyloxycarbonylaminoacetaldehyde diethyl acetal (4.0 g) in a mixture of n-butyl alcohol (20 ml) and water (3.5 ml) was refluxed for 4.5 hours. After the reaction, the solvent was distilled off under reduced pressure. To the residue were added water (15 ml) and sodium acetate. A precipitating oil was separated from the aqueous layer and chloroform was added thereto. The mixture was allowed to stand to give crystals. The crystals were collected by filtration, washed with chloroform and recrystallized twice from a mixture of methanol and ether to give 1(N-benzyloxycarbonylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline acetate (1.2 g), mp 158° to 162° C. (dec).

reactant | 3,4-dihydroxyphenethylamine hydrochloride | 2.17 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | N-benzyloxycarbonylaminoacetaldehyde diethyl acetal | 4.0 g | C(C)OC(CNC(=O)OCC1=CC=CC=C1)OCC | C14H21NO4
solvent | n-butyl alcohol | 20 ml | C(CCC)O | C4H10O
solvent | water | 3.5 ml | O | H2O
product | 1(N-benzyloxycarbonylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline acetate | 1.2 g | C(C)(=O)O.C(C1=CC=CC=C1)OC(=O)NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C18H20N2O4.C2H4O2/c21-16-8-13-6-7-19-15(14(13)9-17(16)22)10-20-18(23)24-11-12-4-2-1-3-5-12;1-2(3)4/h1-5,8-9,15,19,21-22H,6-7,10-11H2,(H,20,23);1H3,(H,3,4)
